US04304770
A mixture of 7-[2-t-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.3 g.), conc. hydrochloric acid (3.74 g.) and methanol (35 ml.) was stirred for 2 hours and 40 minutes at ambient temperature. The solvent was distilled off under reduced pressure and the residue was dissolved in a 10% aqueous solution of sodium hydroxide (pH 7~8). The aqueous solution was adjusted to pH 3.0 with 10% hydrochloric acid under ice-cooling and stirring and stirred for 30 minutes. Precipitates were collected by filtration, washed with water and dried to give 7-[2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.1 g.).

reactant | 7-[2-t-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.3 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C22H23N7O8S4
reactant | hydrochloric acid | 3.74 g | Cl | ClH
solvent | methanol | 35 ml | CO | CH4O
product | 7-[2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.1 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)N | C21H23N7O7S4
